2119-10-21 07:58:00 Physician Resident Progress Note
Chief Complaint: GI bleed
   24 Hour Events:
   Tagged RBC scan negative for active bleed
   Surgery consulted and plans for surgery.
   GI consulted
   Patient had ongoing GI bleeding.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2119-10-21**] 07:34 AM
   Other medications:
   Lipitor
   Zetia
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2119-10-21**] 07:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.7
C (96.3
   Tcurrent: 35.7
C (96.3
   HR: 83 (70 - 89) bpm
   BP: 137/100(109) {98/64(74) - 139/112(118)} mmHg
   RR: 14 (14 - 14) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
             Total In:
             814 mL
   PO:
             TF:
   IVF:
   814 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    300 mL
   Urine:
   300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                    514 mL
   Respiratory support
   SpO2: 100%
   ABG: ///23/
   Physical Examination
   Gen: elderly African American male, NAD
   HEENT: right facial droop, EOMI, o/p clear
   CV: RRR, no m/r/g
   Pulm: CTA b/l
   Abd: soft, NT, ND, bowel sounds present
   Ext: peripheral edema note
   Labs / Radiology
   112 K/uL
   10.4 g/dL
   115 mg/dL
   0.9 mg/dL
   23 mEq/L
   3.9 mEq/L
   12 mg/dL
   115 mEq/L
   142 mEq/L
   29.2 %
   8.2 K/uL
        [image002.jpg]
                             [**2119-10-21**]  12:24 AM
                             [**2119-10-21**]  05:51 AM
   WBC
   9.4
   8.2
   Hct
   31.9
   29.2
   Plt
   106
   112
   Cr
   0.9
   0.9
   Glucose
   128
   115
   Other labs: PT / PTT / INR:14.5/32.9/1.3, ALT / AST:17/39, Alk Phos / T
   Bili:37/1.2, Differential-Neuts:74.9 %, Lymph:18.7 %, Mono:5.0 %,
   Eos:1.2 %, Albumin:2.4 g/dL, LDH:270 IU/L, Ca++:7.4 mg/dL, Mg++:1.7
   mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   Mr. [**Known lastname 5118**] is an 85 yo male with CAD s/p MI, CVA, now with lower GI bleed
   for 4 days requiring 13 units of PRBCs.
   1. GI bleed.  Patient admitted with ongoing lower GI bleed.  Initial
   bleeding scan at OSH on [**10-17**] revealed right sided bleeding, however
   colonoscopy x 2 failed to identify source of bleeding but there was
   concern for AVMs versus divertular bleed versus bleed proximal to the
   ileocecal valve.  Currenly hemodynamically stable with ongoing
   bleeding.  Tagged RBC scan negative but now bleeding again, so will go
   for total colectomy today.
   - serial Hcts (q4 hours)
   - right IJ from OSH --> will need to replace in AM
   - transfuse 2 units given ongoing brisk bleed
   - await surgical intervention
   - cards consult for clearance
   - IV PPI [**Hospital1 **], though less likely to be upper bleed
   2.  CAD.  Patient has history of CAD with EF of 45%.  Cardiac cath in
   [**2116**] showed 3 vessel disease but unable to intervene by cath.  No
   history of stents per patient.  On Aspirin, lasix, atorvastatin, zetia,
   and metoprolol at home.  However, given extensive bleed, will avoid
   antiplatelet therapy and antihypertesnives.  Got DDAVP at OSH.
   - continue atorvastatin, zetia
   - hold BB, lasix, isosorbide mononitrate
   - hold aspirin
   - transfuse to keep Hct > 30 given CAD and active bleed
   - cards consult for clearance
   3.  H/o stroke.  Patient has history of CVA.  However, given
   significant and prolonged bleed, will hold aggrenox.
   - hold aggrenox
   4.  FEN: IVF @ 150cc/hour, NPO for now.
   5. PPx: pneumoboots.
   6. FULL CODE, confirmed with patient.
   Communication: patient
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2119-10-21**] 12:00 AM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer:  IV PPI
   VAP:  not needed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: to ICU today

2119-10-21 09:01:00 Physician Attending Progress Note
Chief Complaint: GI bleed
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   85 yo male admitted to [**Hospital1 **] on [**10-17**] with BRBPR.  Initial Hct there
   31, transfused, hemodynamically stable.  Got tagged RBC scan there
   which showed bleeding localized to ascending colon.  Colonoscopy showed
   several R-sided AVMs and scattered diverticuli, no active bleeding.
   AVMs were cauterized.  Bleeding appears to have stopped temporarily
   after that, but then he rebled.  Got repeat colonoscopy which showed
   cauterized ulcers, not bleeding.  Received 13U PRBCs total while there,
   transferred here for possible surgery.
   24 Hour Events:
 MULTI LUMEN - START [**2119-10-21**] 12:00 AM
 NUCLEAR MEDICINE - At [**2119-10-21**] 06:31 AM
   Red Tag Study: negative
   Bled around 500 cc overnight.  Hasn't bled since he returned from RBC
   scan.  Hct 31->29.
   Evaluated by Surgery who felt that he may require surgery given amount
   of blood he required at OSH.
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2119-10-21**] 07:34 AM
   Other medications:
   lipitor 40 daily, zetia 10 mg daily
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Gastrointestinal: BRBPR
   Flowsheet Data as of  [**2119-10-21**] 09:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.7
C (96.3
   Tcurrent: 35.7
C (96.2
   HR: 89 (70 - 89) bpm
   BP: 111/76(83) {98/64(74) - 139/112(118)} mmHg
   RR: 14 (14 - 14) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
             Total In:
             900 mL
   PO:
             TF:
   IVF:
   900 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    340 mL
   Urine:
   340 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                    560 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///23/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.4 g/dL
   112 K/uL
   115 mg/dL
   0.9 mg/dL
   23 mEq/L
   3.9 mEq/L
   12 mg/dL
   115 mEq/L
   142 mEq/L
   29.2 %
   8.2 K/uL
        [image002.jpg]
                             [**2119-10-21**]  12:24 AM
                             [**2119-10-21**]  05:51 AM
   WBC
   9.4
   8.2
   Hct
   31.9
   29.2
   Plt
   106
   112
   Cr
   0.9
   0.9
   Glucose
   128
   115
   Other labs: PT / PTT / INR:14.5/32.9/1.3, ALT / AST:17/39, Alk Phos / T
   Bili:37/1.2, Differential-Neuts:74.9 %, Lymph:18.7 %, Mono:5.0 %,
   Eos:1.2 %, Albumin:2.4 g/dL, LDH:270 IU/L, Ca++:7.4 mg/dL, Mg++:1.7
   mg/dL, PO4:2.9 mg/dL
   Imaging: CXR pending
   Assessment and Plan
   A/P:  85 y/o M w/MMP admitted with a lower GI bleed requiring 13 units
   of blood, with tagged RBC from OSH suggesting bleeding is from
   ascending colon.  Currently just had another bloody BM so appears to be
   still bleeding.
   1. GI bleed:  Continuing to bleed despite cauterization of AVMs,
   suggesting that bleed is from another source, ? diverticuli.
   - transfuse 2 units PRBCs now, crossmatch additional 2 units
   - GI and Surgery following.  Will discuss with Surgery whether they
   want to go to the OR versus angio vs continuing supportive care
   w/transfusions.
   - tagged RBC scan negative here but localized to ascending colon at
   OSH.
   - check Hct q4h
   - will change CVL
   2. Hx CAD: had cath here [**2116**] with 3VD and EF 45%, underwent POBA.  Has
   not had an intervention.  Holding aspirin and metoprolol given
   bleeding.
   - No active chest pain
   - Cardiology consult for potential preoperative evaluation
   - cont statin & zetia
   ICU Care
   Nutrition:
   Comments: NPO
   Glycemic Control:  Blood sugar well controlled
   Lines:
   Multi Lumen - [**2119-10-21**] 12:00 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent:  35
   Patient is critically ill